Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin
 
Attending: ___
 
___ Complaint:
Increase in bleeding due to elevated INR
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms ___ was admitted due to an elevated INR after having 
a right TKR on ___.  She was for INR monitoring and a 
target INR of ___.  
 
Past Medical History:
1. pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently anti-coagulated on couamdin. 
neg hypercoag eval by heme)  
2. cellulitis - treated earlier this year for abdominal 
cellulitis
3. fibroids s/p supracervical hysterectomy, repair of bowel 
serosa injury, cystoscopy (___)  
4. fibromyalgia - diagnosed earlier this year by PCP ___ "leg 
and back pains"
5. osteoarthritis s/p bilateral knee replacement
6. left leg nerve entrapment 
7. ectopic pregnancy  
8. depression - has seen 5 therapists within the past few years 
9. anxiety  
10. obesity  
11. sleep apnea 
12. HSV - need to confirm with patient
13. migraines
14. GERD
15. chronic lower back pain
16. 2 prior myomectomies
 
Social History:
___
Family History:
n/c
 
Physical Exam:
GEN: AOx3, NAD
NECK: Supple
HEART: RRR, no M/R/G
LUNGS: CTA-B
ABDOMEN: Soft, NTND, NABS
EXTREMITY; Right knee with small amounts oozing from incision. 
Dressings changed daily prn.
           Negative ___ test, ___ and FHL, 
           positive capillary refill, NVI
 
Pertinent Results:
___ 06:47AM BLOOD WBC-6.8 RBC-2.77* Hgb-7.6* Hct-24.5* 
MCV-88 MCH-27.3 MCHC-30.9* RDW-16.3* Plt ___
___ 06:25AM BLOOD WBC-7.4 RBC-2.63* Hgb-7.3* Hct-23.2* 
MCV-88 MCH-27.6 MCHC-31.3 RDW-16.2* Plt ___
___ 10:00PM BLOOD WBC-9.9# RBC-2.87* Hgb-7.9* Hct-24.8* 
MCV-86 MCH-27.5 MCHC-31.8 RDW-16.1* Plt ___
___ 10:00PM BLOOD Neuts-61.5 ___ Monos-6.1 Eos-0.5 
Baso-0.6
___ 06:47AM BLOOD Plt ___
___ 06:47AM BLOOD ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD ___ PTT-46.1* ___
___ 10:00PM BLOOD Plt ___
___ 10:00PM BLOOD ___ PTT-43.8* ___
___ 06:25AM BLOOD Glucose-111* UreaN-7 Creat-0.8 Na-136 
K-4.2 Cl-100 HCO3-26 AnGap-14
___ 10:00PM BLOOD Glucose-104* UreaN-6 Creat-0.7 Na-136 
K-4.1 Cl-98 HCO3-27 AnGap-15
___ 06:35AM BLOOD ___
 
Brief Hospital Course:
Ms ___ was admitted from the emergency room with severe 
bleeding from surgical site along with an elevated INR.  She was 
admitted to monitor her INR with a goal of ___.  She is 
discharge home on coumadin 5mg and will follow up with her PCP 
___ at ___ (Phone ___ 
or Fax ___ and continue ___ and regular INR checks 
every ___. She will begin to take keflex ___ four 
times per day for 10 days. 
 
Medications on Admission:
tylenol, colace, MVI, quetiapine, senna, coumadin, oxycodone, 
lisinopril
 
Discharge Medications:
1. lisinopril 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
2. lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for anxiety.  
3. quetiapine 300 mg Tablet Sustained Release 24 hr Sig: Two (2) 
Tablet Sustained Release 24 hr PO QHS (once a day (at bedtime)). 
 
4. warfarin 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
Target INR ___.  Followed by PCP ___ ___.
Disp:*30 Tablet(s)* Refills:*2*
5. cephalexin 500 mg Capsule Sig: One (1) Capsule PO four times 
a day for 10 days.
Disp:*40 Capsule(s)* Refills:*0*
6. Percocet ___ mg Tablet Sig: ___ Tablets PO every ___ 
hours: do not take with additional tylenol.  do not exceed more 
than 12 tabs in 24 hours.
Disp:*100 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Elevated INR

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.

2. Please follow up with your primary physician regarding this 
admission and any new medications and refills.  

3. Resume your home medications unless otherwise instructed.

4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.

5. You may not drive a car until cleared to do so by your 
surgeon or your primary physician.

6. Please keep your wounds clean. You may shower starting five 
days after surgery, but no tub baths or swimming for at least 
four weeks. No dressing is needed if wound continues to be 
non-draining. Any stitches or staples that need to be removed 
will be taken out by ___ on ___ at 1:40PM. 

7. Please call your surgeon's office to schedule or confirm your 
follow-up appointment with ___ (___).

8. Please DO NOT take any non-steroidal anti-inflammatory 
medications (NSAIDs such as celebrex, ibuprofen, advil, aleve, 
motrin, etc).

9. ANTICOAGULATION: Please continue your coumadin to help 
prevent deep vein thrombosis (blood clots).  Get INR checked 
___ by ___ and results should be faxed to Dr. ___ 
___ at ___ or called ___ and dose 
coumadin appropriately.    

10. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower five days after surgery but no tub baths, 
swimming, or submerging your incision until after your four week 
checkup. Please place a dry sterile dressing on the wound each 
day if there is drainage, otherwise leave it open to air. Check 
wound regularly for signs of infection such as redness or thick 
yellow drainage. Staples will be removed by ___ at your 
appointment on ___.  

11. ACTIVITY: Weight bearing as tolerated on the operative 
extremity. CPM as tolerated. No strenuous exercise or heavy 
lifting until follow up appointment.

12. Take Keflex ___ four times per day for 10 days.

Physical Therapy:
Mobilize
WBAT
ROM unrestricted
CPM as tolerated
Treatments Frequency:
Dry sterile dressings daily as needed for drainage.
Wound checks daily.
 
Followup Instructions:
___